US06716851B2
4-(2-Chloro-5-methoxyanilino)-6-methyl-2-(2-pyridinyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (50 mg, 0.243 mmol) and 2-chloro-5-methoxyaniline (47 mg, 0.243 mmol) similar to Example 13 and isolated as a tan oil (35 mg, 44%). 1H NMR (CDCl3): 8.82-8.80 (m, 1H), 8.47 (d, J=7.8 Hz, 1H), 7.86-7.81 (m, 1H), 7.77 (d, J=2.7 Hz, 1H), 7.41-7.36 (m, 1H), 7.36 (s, 1H), 7.30 (s, 1H), 6.68 (s, 1H), 6.65 (dd, J=2.7, 8.7 Hz, 1H), 3.85 (s, 3H), 2.55 (s, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.243 mmol, 50 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | 2-chloro-5-methoxyaniline | 0.243 mmol, 47 mg | ClC1=C(N)C=C(C=C1)OC | C7H8ClNO
product | 4-(2-Chloro-5-methoxyanilino)-6-methyl-2-(2-pyridinyl)pyrimidine | ClC1=C(NC2=NC(=NC(=C2)C)C2=NC=CC=C2)C=C(C=C1)OC | C17H15ClN4O
